US05162321
1-(7-Methoxy-1-naphthyl)-4-[2-(ethoxycarbonylamino)ethyl]piperazine hydrochloride
This compound was prepared as indicated in the preceding example, from 1-(7-methoxy-1-naphthyl)-4-(2-aminoethyl)piperazine and ethyl chloroformate in chloroform.

reactant | 1-(7-methoxy-1-naphthyl)-4-(2-aminoethyl)piperazine | COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCN | C17H23N3O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(7-Methoxy-1-naphthyl)-4-[2-(ethoxycarbonylamino)ethyl]piperazine hydrochloride | Cl.COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCNC(=O)OCC | InChI=1S/C20H27N3O3.ClH/c1-3-26-20(24)21-9-10-22-11-13-23(14-12-22)19-6-4-5-16-7-8-17(25-2)15-18(16)19;/h4-8,15H,3,9-14H2,1-2H3,(H,21,24);1H
